US05279999
Glutaryl chloride (28.2 g; 0.167 mole) was slowly added to a mixture of anhydrous aluminum trichloride (50 g; 0.375 mole) and 250 ml benzene. The mixture was stirred vigorously in an ice/water bath. After completion of the addition, the ice/water bath was removed and stirring was continued for two hours. The solution obtained was slowly poured into a mixture of 200 g crushed ice and 40 ml concentrated aqueous hydrochloric acid. The resulting product was recovered by extraction and crystallization to produce 1,5-diphenyl-1,5-pentanedione.

reactant | Glutaryl chloride | 0.167 mole, 28.2 g | C(CCCC(=O)Cl)(=O)Cl | C5H6Cl2O2
reactant | aluminum trichloride | 0.375 mole, 50 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | hydrochloric acid | 40 ml | Cl | ClH
reactant | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | 1,5-diphenyl-1,5-pentanedione | C1(=CC=CC=C1)C(CCCC(=O)C1=CC=CC=C1)=O | C17H16O2
